US04675320
A mixture of 2 g. (0.006 mole) of 5-bromomethyl-2-nitro-3-phenylbenzofuran, 0.9 g. (0.006 mole) of L-proline methylesterhydrochloride (available from the Aldrich Chemical Company) and 1.2 g. (0.012 mole) of triethylamine in 100 ml. of toluene is heated at reflux for about 100 hours. The mixture is extracted three times with 50 ml. portions of water. The organic layer is then extracted repeatedly with 50 ml. portions of 3N hydrochloric acid to remove all of the yellow product from the toluene layer. The aqueous layer is neutralized with 10 percent sodium carbonate solution. The aqueous layer is then extracted with dichloromethane until the water is colorless. The dichloromethane layer is dried, then evaporated to provide a residue which is diluted with diethyl ether to provide a brownish precipitate. The solid is removed by filtration, and the filtrate is concentrated to provide a residue. The residue is suspended in 50 ml. of concentrated hydrochloric acid diluted 1:1 with water. The mixture is heated at 90° C. for three hours. The mixture is cooled and filtered to provide a yellow precipitate. The precipitate is washed with water to provide N-[(2-nitro-3-phenylbenzofuran-5-yl)methyl]-L-proline hydrochloride hydrate, m.p. 109°-110° C., having the structure

reactant | 5-bromomethyl-2-nitro-3-phenylbenzofuran | 0.006 mole | BrCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H10BrNO3
reactant | L-proline methylesterhydrochloride | 0.006 mole | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 0.012 mole | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[(2-nitro-3-phenylbenzofuran-5-yl)methyl]-L-proline hydrochloride hydrate | O.Cl.[N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)CN2[C@H](C(=O)O)CCC2 | InChI=1S/C20H18N2O5.ClH.H2O/c23-20(24)16-7-4-10-21(16)12-13-8-9-17-15(11-13)18(19(27-17)22(25)26)14-5-2-1-3-6-14;;/h1-3,5-6,8-9,11,16H,4,7,10,12H2,(H,23,24);1H;1H2/t16-;;/m0../s1
